US05801170
2-(4-Nitrophenyl)tetrazole
The title compound was prepared from 4-fluoronitrobenzene (2 g) and tetrazole (1 g) as described in Description 61 as a yellow solid (0.83 g, 31%).

reactant | 4-fluoronitrobenzene | 2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | tetrazole | 1 g | N1N=NN=C1 | CH2N4
product | 2-(4-Nitrophenyl)tetrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CN=N1 | C7H5N5O2
